US06410534B1
Step B: 7-(Triisopropylsilyloxy)-1-iodonaphthalene
To a solution of 8-iodo-2-naphthol, as described in Step A, (2.75 g, 10.2 mmol) in dry DMF (25 mL), under argon, were added imidazole (1.39 g, 20.4 mmol) and triisopropylsilyl chloride (2.55 g, 13.2 mmol). The resulting mixture was stirred at ambient temperature for 4 hrs, then quenched with 10% aqueous citric acid (100 mL) and extracted with EtOAc (2×100 mL). The combined organic extracts were washed with water (50 mL), then brine (50 mL), then dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with CH2Cl2-50% hexane to yield the desired product as a white solid.

reactant | 8-iodo-2-naphthol | IC=1C=CC=C2C=CC(=CC12)O | C10H7IO
reactant | imidazole | 20.4 mmol, 1.39 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 13.2 mmol, 2.55 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 7-(Triisopropylsilyloxy)-1-iodonaphthalene | C(C)(C)[Si](OC1=CC=C2C=CC=C(C2=C1)I)(C(C)C)C(C)C | C19H27IOSi
